Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS:
==================

___ 04:33PM BLOOD WBC-9.6 RBC-3.89* Hgb-11.4 Hct-35.4 
MCV-91 MCH-29.3 MCHC-32.2 RDW-14.2 RDWSD-47.1* Plt ___
___ 04:33PM BLOOD Neuts-34.3 ___ Monos-13.8* 
Eos-3.2 Baso-0.4 Im ___ AbsNeut-3.28 AbsLymp-4.60* 
AbsMono-1.32* AbsEos-0.31 AbsBaso-0.04
___ 04:33PM BLOOD ___ PTT-33.0 ___
___ 04:33PM BLOOD Glucose-86 UreaN-7 Creat-0.4 Na-142 K-4.1 
Cl-109* HCO3-17* AnGap-16
___ 04:33PM BLOOD proBNP-2403*
___ 04:33PM BLOOD cTropnT-<0.01
___ 04:33PM BLOOD Calcium-9.5 Phos-4.7* Mg-1.5*
___ 04:33PM BLOOD TSH-<0.01*
___ 04:33PM BLOOD T3-335* Free T4-3.5*

DISCHARGE LABS:
===================

___ 07:00AM BLOOD WBC-9.4 RBC-3.27* Hgb-9.7* Hct-29.2* 
MCV-89 MCH-29.7 MCHC-33.2 RDW-14.1 RDWSD-45.5 Plt ___
___ 09:00AM BLOOD ___ PTT-73.5* ___
___ 09:00AM BLOOD ___ D-Dimer-797*

STUDIES:
===================

EKG - ___ in ED was in atrial flutter with variable block
Repeat on ___ in sinus rhythm, no ST elevations/depressions or 
T wave inversions

CHEST X-RAY:
FINDINGS:  
  
Heart size is top-normal.  Mediastinal contours unremarkable.  
Hila 
bilaterally are prominent which could suggest enlarged pulmonary 
arteries.  Patchy right basilar opacity is demonstrated.  
Pulmonary vasculature is not engorged.  No pleural effusion or 
pneumothorax.  No acute osseous abnormality. 
  
IMPRESSION:  
  
Patchy right basilar opacity may reflect pneumonia or aspiration 
in the 
correct clinical setting.  No pulmonary edema. 

 
Brief Hospital Course:
SUMMARY - Ms. ___ was referred for admission by 
endocrinologist at ___ for new onset atrial fibrillation/atrial 
flutter while in clinic. She had additional rapid heart rates 
while in ED. Atrial flutter seen on EKG during that time in ED, 
however it is quite possible she also had atrial fibrillation 
during this time which was not caught on an EKG here. She 
spontaneously converted to sinus rhythm by the time she got to 
the floor. Started on heparin drip for anticoagulation, switched 
to apixaban on discharge. Atenolol dose not changed since she 
was borderline bradycardic while in sinus (asymptomatically, 
down as low as ~40 but more in ___. Methimazole dose 
continued. She will need to follow-up very closely with 
endocrine and PCP after discharge.

PROBLEMS -

#Atrial flutter/a fib: Patient noted to have new onset atrial 
flutter on EKG from ED. Also report per outpatient endocrine and 
ED may have seen atrial fibrillation on the monitor as well, 
however I am not able to verify this information. Started on 
Heparin drip for anticoagulation, then switched to apixaban 
prior to discharge. Beta blocked with propranolol, which was not 
changed due to relative bradycardia (rates in ___ while 
sleeping in sinus rhythm. D-dimer was 797, which is normal when 
age adjusted, and PE felt to be unlikely. TTE from ___. 
___ from ___%, mild MR, mild AS , 
mild TR, normal pulmonary artery systolic pressure, and normal 
pulmonary valve with moderately dilated left atrium. She had 
very mild leg swelling on admission but this completely resolved 
prior to discharge.

#Graves Hyperthyroidism: Has been seeing a physician at ___ 
however she has reportedly planned to switch all of her care to 
___. She has seen Dr. ___ she ___ continue to 
follow with. I have reached out to notify him about her 
admission. For now she will continue home methimazole at same 
dose of 10 BID. She has follow-up in endocrine scheduled for 
early next month.

#Abnormal chest x-ray:
#Tobacco abuse:
Noted on x-ray to have a patchy right basilar opacity. Patient 
not presenting with any clinical signs/symptoms of pneumonia 
otherwise and had normal oxygenation. She is an active smoker, 
therefore would be vigilant about possible malignancies. She 
likely qualifies for low dose screening CT anyway (if she hasn't 
already had this), which should be discussed with her PCP. 
Otherwise would recommend repeat x-ray in next ___ weeks to 
assess for resolution of this finding.

#Abnormal chest x-ray:

Transitional Issues:
[ ] Recommend either repeat chest x-ray in ___hest 
to evaluate possible infiltrate in RLL of lung seen on our 
x-ray, although patient without fever/leukocytosis/other 
infectious symptoms (? undiagnosed malignancy)
[ ] Repeat thyroid testing as per endocrine
[ ] Patient reported feeling dizzy on days when not exercising 
in pool. Recommended follow-up with primary care doctor 
regarding these concerns
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MethIMAzole 10 mg PO BID 
2. Atenolol 25 mg PO BID 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
2.  Nicotine Patch 21 mg/day TD DAILY:PRN Tobacco withdrawal 
RX *nicotine 21 mg/24 hour one patch to skin once a day Disp 
#*30 Patch Refills:*0 
3.  Atenolol 25 mg PO BID  
4.  MethIMAzole 10 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atrial fibrillation/flutter
Graves Hyperthyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___, 

You were admitted to the hospital for new onset arrhythmia 
called atrial flutter (and likely similar/related arrhythmia 
called atrial fibrillation). This is likely due to your 
overactive thyroid gland.
 
Followup Instructions:
___